US07034053B2
2-(3-Aminophenyl)furan-3-carboxylic acid methyl ester
A solution of 2-(3-nitrophenyl)furan-3-carboxylic acid methyl ester (1.0 g) in methanol (60 mL) containing 10% palladium on carbon (2.9 g) was stirred under 1 atmosphere of hydrogen for 1 h. The reaction mixture was then filtered through Celite. Removal of the solvent at reduced pressure gave the title compound as a yellow solid (0.75 g). C12H11NO3: M+Na+ 240

reactant | 2-(3-nitrophenyl)furan-3-carboxylic acid methyl ester | 1.0 g | COC(=O)C1=C(OC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C12H9NO5
reactant | hydrogen | [H][H] | H2
solvent | methanol | 60 mL | CO | CH4O
catalyst | palladium on carbon | 2.9 g | [Pd] | Pd
product | 2-(3-Aminophenyl)furan-3-carboxylic acid methyl ester | 0.75 g | COC(=O)C1=C(OC=C1)C1=CC(=CC=C1)N | C12H11NO3
